US04565425
A solution of 4.49 g of 90% m-chloroperbenzoic acid in 100 ml of methylene chloride was treated with 11.3 g of powdered potassium carbonate. The mixture was treated dropwise at 0° C. within 5 minutes with a solution of 5.93 g of p-[trans-4-(3-pentenyl)cyclohexyl]benzonitrile in 20 ml of methylene chloride and stirred at room temperature for 2 hours. The mixture was subsequently treated with a further 4.49 g of 90% m-chloroperbenzoic acid and the resulting mixture was stirred further. After a total of 70 hours, the mixture was partitioned three times in methylene chloride/10% sodium thiosulphate solution. The organic extracts were washed with sodium thiosulphate solution and water, dried over magnesium sulphate, filtered and concentrated. Chromatographic separation of the resulting, light yellowish oil (6.3 g) on silica gel with ethyl acetate/petroleum ether (vol. 10:90) gave 6.27 g (99.5%) of p-[trans-4-(3,4-epoxypentyl)cyclohexyl]benzonitrile as a colourless oil.

reactant | m-chloroperbenzoic acid | 4.49 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | potassium carbonate | 11.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | p-[trans-4-(3-pentenyl)cyclohexyl]benzonitrile | 5.93 g | C(CC=CC)[C@@H]1CC[C@H](CC1)C1=CC=C(C#N)C=C1 | C18H23N
reactant | m-chloroperbenzoic acid | 4.49 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | p-[trans-4-(3,4-epoxypentyl)cyclohexyl]benzonitrile | 6.27 g, 99.5% | O1C(CC[C@@H]2CC[C@H](CC2)C2=CC=C(C#N)C=C2)C1C | C18H23NO
